US04956359
3-(4-Fluorophenoxy)-1-azetidinecarboxamide
A solution of 5.52 g (0.022 mole) of crude 3-(4-fluorophenoxy)-1-azetidine carbonyl chloride in 20 ml of tetrahydrofuran was treated with 10 ml of concentrated ammonium hydroxide while stirring. The exothermic reaction mixture was stirred for 18 hr as it cooled to ambient temperature. The reaction mixture was diluted with 400 ml of ice water to produce a phase separation. Upon standing, the oily phase solidified and was collected by filtration yielding 12.5 g of crude wet product. Recrystallization from aqueous ethanol after charcoal treatment produced an oil which slowly crystallized. The sample was recrystallized from methylene chloride, yield 1.6 g (35%) of amorphous-like powder, m.p. 185°-188° C.

reactant | 3-(4-fluorophenoxy)-1-azetidine carbonyl chloride | 0.022 mole, 5.52 g | FC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9ClFNO2
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(4-Fluorophenoxy)-1-azetidinecarboxamide | FC1=CC=C(OC2CN(C2)C(=O)N)C=C1 | C10H11FN2O2
